US07005431B2
g) 7-[2,4-Difluoro-3-(pyridin-3-yl)phenyl]-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine
A mixture of 7-bromo-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine (0.1 g, 0.37 mmol), 2,4-difluoro-3-(pyridin-3-yl)benzeneboronic acid (132 mg, 0.56 mmol) and 2 M Na2CO3 (0.56 ml) in 1,2-dimethoxyethane (2 ml) was degassed for 10 min with a stream of nitrogen. Tetrakis(triphenylphosphine)palladium(0) (0.022 g) was added and the mixture was stirred under nitrogen at 80° C. for 12 h. After allowing to cool to ambient temperature, the mixture was diluted with ethyl acetate then partitioned between water (100 ml) and ethyl acetate (100 ml). The organic extracts were dried (MgSO4), filtered and evaporated in vacuo. The residue was purified by flash chromatography (silica gel, 2.5% MeOH/CH2Cl2), to give 78 mg (55%) of the title compound: 1H NMR (400 MHz, CDCl3) δ 7.17–7.22 (1H, m), 7.37–7.41 (1H, m), 7.80 (1H, d, J 8.4), 8.10–8.16 (1H, m), 8.56 (1H, d, J 2.6), 8.62 (1H, dd, J 4.6, 1.5), 8.72 (1H, 8.74 (1H, s); MS (ES+) m/z 378 [M+H]+.

reactant | 7-bromo-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine | 0.37 mmol, 0.1 g | BrC1=CN=C2N1N=CC(=N2)C(F)(F)F | C6H2BrF3N4
reactant | 2,4-difluoro-3-(pyridin-3-yl)benzeneboronic acid | 0.56 mmol, 132 mg | FC1=C(C=CC(=C1C=1C=NC=CC1)F)B(O)O | C11H8BF2NO2
reactant | Na2CO3 | 2 M, 0.56 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 2 ml | COCCOC | C4H10O2
product | 7-[2,4-Difluoro-3-(pyridin-3-yl)phenyl]-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine | 78 mg, 55% | FC1=C(C=CC(=C1C=1C=NC=CC1)F)C1=CN=C2N1N=CC(=N2)C(F)(F)F | C17H8F5N5
